US05541229
4'-[(2-n-Butyl-7-n-propylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 72 from ethyl 4'-[(2-n-butyl-7-n-propylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and 2N sodium hydroxide/ethanol.

reactant | ethyl 4'-[(2-n-butyl-7-n-propylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OCC)C(=CC=C2)NCCC | C30H35N3O2
reactant | sodium hydroxide ethanol | 2N | [OH-].[Na+].C(C)O
product | 4'-[(2-n-Butyl-7-n-propylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C(=CC=C2)NCCC | C28H31N3O2
